US03966736
In the manner given in Example 13, 6,11-dihydro-11-(piperidinoacetyl)-5H-pyrido[2,3-b][1,5]benzodiazepin-5-thione is heated to about 200° C. with ethyl carbazate to give 2,9-dihydro-9-(piperidinoacetyl)-3H-pyrido[3,2-c]-s-triazolo[4,3-a][1,5]benzodiazepin-3-one.

reactant | 6,11-dihydro-11-(piperidinoacetyl)-5H-pyrido[2,3-b][1,5]benzodiazepin-5-thione | N1(CCCCC1)CC(=O)N1C2=C(C(NC3=C1C=CC=C3)=S)C=CC=N2 | C19H20N4OS
reactant | ethyl carbazate | C(NN)(=O)OCC | C3H8N2O2
product | 2,9-dihydro-9-(piperidinoacetyl)-3H-pyrido[3,2-c]-s-triazolo[4,3-a][1,5]benzodiazepin-3-one | N1(CCCCC1)CC(=O)N1C2=C(C=3N(C4=C1C=CC=C4)C(NN3)=O)C=CC=N2 | C20H20N6O2
